US07285558B2
N-{2-[2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-imidazol-4-yl}acetamide
This compound was synthesized by the reaction of 3-(4-amino-1-methyl-1H-imidazol-2-yl)-2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione hydrochloride and acetyl chloride using triethylamine as a base. Mass: 506.09 (M+H).

reactant | 3-(4-amino-1-methyl-1H-imidazol-2-yl)-2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione hydrochloride | Cl.NC=1N=C(N(C1)C)C=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CSC1=C2C=CC=C1
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-{2-[2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-imidazol-4-yl}acetamide | S1C=C(C2=C1C=CC=C2)CN2N=C1N(C(N(C(C1=C2C=2N(C=C(N2)NC(C)=O)C)=O)C)=O)CC(C)C | C25H27N7O3S
